US04891375
4-(4-(2-(4-(3-Trifluoromethylphenyl)piperazinyl)ethyl)phenyl)-2-amino-5-methylthiazole
To a 35 ml round-bottomed flask equipped with condenser and N2 inlet were added 0.75 g (2.59 mmol) of 4-(4-(2-chloroethyl)phenyl)-2-aminothiazole hydrobromide, 0.69 g (2.59 mmol) of N-(3-trifluoromethylphenyl)piperazine hydrochloride, 1.08 ml (7.78 mmol) of triethylamine, 0.27 g (2.59 mmol) of sodium carbonate, 5 mg of sodium iodide, and 9.5 ml of ethanol. The reaction was heated at reflux, cooled, and taken up in ethyl acetate/water. The layers were separated, the ethyl acetate washed with brine, dried, and evaporated to give an oil. The oil was chromatographed on silica gel using ethyl acetate as eluent to give an oil. The oil was taken up in ethyl acetate/methanol, ether saturated with HCl was added, the precipitate filtered, washed with ether, and dried to give a white solid, 0.72 g (50%), m.p. 110°-115° C.

reactant | 4-(4-(2-chloroethyl)phenyl)-2-aminothiazole hydrobromide | 2.59 mmol, 0.75 g | Br.ClCCC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | N-(3-trifluoromethylphenyl)piperazine hydrochloride | 2.59 mmol, 0.69 g | Cl.FC(C=1C=C(C=CC1)N1CCNCC1)(F)F
reactant | triethylamine | 7.78 mmol, 1.08 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 2.59 mmol, 0.27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 5 mg | [I-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 9.5 ml | C(C)O | C2H6O
product | 4-(4-(2-(4-(3-Trifluoromethylphenyl)piperazinyl)ethyl)phenyl)-2-amino-5-methylthiazole | FC(C=1C=C(C=CC1)N1CCN(CC1)CCC1=CC=C(C=C1)C=1N=C(SC1C)N)(F)F | C23H25F3N4S
